US07511035B2
(c) 1,1-dimethylethyl {2-[4-hydroxy-1-(phenylmethyl)-4-piperidinyl]ethyl}carbamate
To a solution of 4-(2-aminoethyl)-1-(phenylmethyl)-4-piperidinol (2.7 g, 11.5 mmol) in THF/CH3CN (57 mL, 1:1) was added Boc2O dropwise. After 0.5 h, the solution was concentrated and the residue purified via column chromatography (silica, 2% MeOH in DCM (1% NH4OH)) yielding the title compound (3.2 g, 83%) as a yellow oil: LCMS (ES) m/e 336 (M+H)+.

reactant | 4-(2-aminoethyl)-1-(phenylmethyl)-4-piperidinol | 11.5 mmol, 2.7 g | NCCC1(CCN(CC1)CC1=CC=CC=C1)O | C14H22N2O
reactant | Boc2O | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF CH3CN | 57 mL | C1CCOC1.CC#N
product | 1,1-dimethylethyl {2-[4-hydroxy-1-(phenylmethyl)-4-piperidinyl]ethyl}carbamate | 3.2 g, 83% | OC1(CCN(CC1)CC1=CC=CC=C1)CCNC(OC(C)(C)C)=O | C19H30N2O3
